US07067540B2
5-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-2-furamide
To a room temperature suspension of 5-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-2-furoic acid (1.00 g, 2.27 mmol) in THF (8.0 mL) was added 2-chloro-4,6 dimethoxy-1,3,5 triazine (610 mg, 3.47 mmol) and N-methyl morpholine (NMM, 368 mg, 3.62 mmol) sequentially. The resulting solution was matured for 2 hours and then a saturated aqueous solution of ammonium hydroxide (1.5 mL) was added. The resulting suspension was allowed to continue for 1 additional hour. The reaction mixture was diluted with 800 mL of brine and extracted with ethyl acetate (3×600 mL). The organic extracts were separated, Na2SO4 dried, and concentrated in vacuo and the resulting residue was subjected to SiO2 chromatography with ethyl acetate/hexanes/methanol (57:38:5) to provide the title compound (710 mg, 71%). 1H NMR (400 MHz, d7-DMF) δ 8.07 (s, 1H), 7.79 (app q, J=8.6 Hz, 1H), 7.50 (br s, 1H), 7.32 (app dt, J=10.1, 2.2 Hz, 1H), 7.30 (app dd, J=8.0, 3.3 Hz, 1H), 7.20 (app dt, J=8.6, 2.0 Hz, 1H), 6.81 (s, 1H), 6.79 (d, J=3.4 Hz, 1H), 5.47 (s, 2H), 2.14 (s, 3H); LC/MS C-18 column, tr=2.60 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 439 (M+H). ES-HRMS m/z 439.0088 (M+H calcd for C18H14BrF2N2O4 requires 439.0010).

reactant | 5-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-2-furoic acid | 2.27 mmol, 1.00 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=CC=C(O1)C(=O)O)=O | C18H12BrF2NO5
reactant | 2-chloro-4,6 dimethoxy-1,3,5 triazine | 3.47 mmol, 610 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methyl morpholine | 3.62 mmol, 368 mg | CN1CCOCC1 | C5H11NO
reactant | ammonium hydroxide | 1.5 mL | [OH-].[NH4+]
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
solvent | brine | 800 mL | [Cl-].[Na+].O
product | 5-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-2-furamide | 710 mg, 71% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=CC=C(O1)C(=O)N)=O | C18H13BrF2N2O4
